Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bright red blood per rectum
 
Major Surgical or Invasive Procedure:
EGD
Colonoscopy
 
History of Present Illness:
___ with no PMH presents with dyspnea on exertion and 
palpitations. He reports that he started to have intermittent 
bright red blood with stooling about 3 months ago which is now 
present with all bowel movements. Over the last ___ weeks, he 
has had increasing shortness of breath and palpitations with 
minimal exertion. He reports dizziness with standing. His wife 
noticed that he seemed more pale yesterday. He denies chest 
pain, or abdominal pain. He reports stooling once daily, usually 
passing hard brown stool with a large volume of blood in the 
toilet.
In the ED, initial vital signs were: 99.1 130 139/95 18 100% RA
- Exam was notable for: skin pallor
- Labs were notable for: WBC 13.6, H/H 4.1/16.8, MCV 65, Plts 
435, INR 1.0, normal chem7, normal LFTs, 1L IVF
- Imaging: Chest xray with no abnormalities
- The patient was given: 1L IVF
- Consults: GI who said they would see patient non-urgently.
- Vitals prior to transfer were: 109 138/85 22 100%
Upon arrival to the floor, patient felt improved after receiving 
blood.  
Remaining systems reviewed and negative except as above.
 
Past Medical History:
None
 
Social History:
___
Family History:
No family history of GI cancers.
 
Physical Exam:
>> ADMISSION PHYSICAL EXAM: 
VITALS: 98.5 131/81 108 18 100%RA
GENERAL: Pleasant, well-appearing, in no apparent distress.
HEENT - normocephalic, atraumatic, +conjunctival pallor or.
NECK: Supple, no LAD, no thyromegaly, JVP flat.
CARDIAC: tachycardic, normal S1/S2, no murmurs.
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.
RECTAL: External hemorrhoid, scant stool which was guaiac 
negative.
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.
SKIN: Pale, without rash.
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.

>> DISCHARGE PHYSICAL EXAM: 
VS: Tmax 98.4 BP ___ P 87-100 RR 18 Sat >96% RA
General: Alert, lying in bed comfortably, NAD
HEENT: NC/AT. MMM, OP clear.
Cardiac: RRR, S1, S2. No extra sounds
Lungs: CTAB, good air movement throughout
Abdomen: Soft. NTND.
Extremities: Warm, well perfused, no cyanosis. 
Neurologic: AOX3
 
Pertinent Results:
>> ADMISSION LABS: 
___ 08:00PM BLOOD WBC-13.6* RBC-2.57* Hgb-4.1* Hct-16.8* 
MCV-65* MCH-16.0* MCHC-24.4* RDW-19.3* RDWSD-44.6 Plt ___
___ 08:00PM BLOOD Neuts-61.5 ___ Monos-8.8 Eos-0.7* 
Baso-0.4 NRBC-0.9* Im ___ AbsNeut-8.35* AbsLymp-3.76* 
AbsMono-1.19* AbsEos-0.10 AbsBaso-0.05
___ 08:00PM BLOOD Plt ___
___ 08:00PM BLOOD Ret Aut-4.3* Abs Ret-0.11*
___ 08:00PM BLOOD Glucose-133* UreaN-13 Creat-1.0 Na-139 
K-3.9 Cl-105 HCO3-24 AnGap-14
___ 08:00PM BLOOD ALT-12 AST-11 LD(LDH)-111 AlkPhos-79 
TotBili-0.2
___ 08:00PM BLOOD Albumin-4.1 Iron-9*
___ 08:00PM BLOOD calTIBC-517* Ferritn-1.3* TRF-398*

.
>> DISCHARGE LABS: 
___ 04:40AM BLOOD WBC-10.2* RBC-3.33* Hgb-6.9* Hct-24.2* 
MCV-73* MCH-20.7* MCHC-28.5* RDW-24.5* RDWSD-62.3* Plt ___
___ 04:40AM BLOOD Glucose-98 UreaN-12 Creat-0.9 Na-140 
K-3.9 Cl-105 HCO3-25 AnGap-14
___ 04:40AM BLOOD Calcium-8.3* Phos-3.9 Mg-2.2

. 
>> PERTINENT REPORTS: 
EGD: 
Impression: Erythema and multiple erosions in the antrum 
(biopsy)
Otherwise normal EGD to third part of the duodenum 

Recommendations: Follow up biopsy results.
High dose PPI bid. 
Avoid NSAIDs. 

Colonoscopy:
Impression: Polyp at 40cm in the distal descending colon 
(polypectomy, endoclip, injection)
Otherwise normal colonoscopy to cecum 

Recommendations: 
-Follow up path results. 
-Please see attached endoscopy report.
-Portions of the polyp were friable so it may be the cause for 
his intermittent hematochezia. 
-Anemia likely a combination of bleeding from polyp and gastric 
erosions. 
-Recommend close clinical follow up, if persistent anemia 
despite healing of above, may need capsule endoscopy. 
. 
>> MICROBIOLOGY: 
None

 
Brief Hospital Course:
Mr. ___ is a ___ male with no PMH who presents with 
dyspnea, lightheadedness and 2 months of BRBPR found to have a 
hemoglobin of 4.1.
.
>> ACTIVE ISSUES: 
# Severe iron deficieny anemia due to acute on chronic lower GI 
bleed: Patient presented with ___ months of intermittent BRBPR 
that became symptomatic with dyspnea, lightheadedness and 
palpitations 2 weeks prior to presentation. He was found to have 
a Hb of 4.1 and received 3u of pRBC with increase in Hb to 7.2. 
His Hb was stable on the floor thereafter. EGD demonstrated 
ulceration in the antrum consistent with gastritis, which was 
biopsied. Colonoscopy demonstrated a 3.5cm, friable pedunculated 
polyp in the descending colon, which was removed. This was 
presumed to be the primary cause of the bleeding. He was 
observed overnight and his Hb remained stable at 6.8. At the 
time of discharge, he was able to walk on the floor without 
dyspnea or lightheadedness, so he was not transfused again. 
.
# Gastritis: EGD demonstrated ulceration in the antrum 
consistent with gastritis. Patient has no symptoms of gastritis 
such as abdominal pain or heartburn. He was started on 40mg PO 
pantoprazole BID per GI recommendations.
.
# Colonic polyp:  Colonoscopy showed a 3.5cm, friable 
pedunculated polyp which was removed. This is the likely source 
of his GI bleed. The polyp was sent for pathology.
.
>> CHRONIC ISSUES: 
None
. 
>> TRANSITIONAL ISSUES: 
# Lower GI Bleeding: Patient will need to have f/u with GI, and 
pathology as will determine timing for repeat colonoscopy. 
# Anemia: Patient was started on iron and folate supplements. 
Would recommend rechecking of CBC (ordered in OMR in case unable 
to make appointment). 
# Gastritis: Patient to continue Pantoprazole 40 mg BID
# Healthcare Maintenance: Patient does not have PCP, ___ need 
routine healthcare checkup and establishment. 
# Pending Report: Please follow up on biopsy pathology, pending 
at discharge.
# Code Status: Full
 
Medications on Admission:
None
 
Discharge Medications:
1. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0
2. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
1. Gastrointestinal bleed
2. Colonic Polyp
3. Severe Iron Deficiency Anemia
4. Gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___ 
___. You were admitted to the hospital for anemia due 
to bleeding from your gastrointestinal tract. You were given 
blood transfusions which brought your blood counts back up. 
Blood tests showed that your iron levels were very low due to 
the bleeding. 

You had a colonoscopy, which showed a polyp in your colon that 
was removed. You also had endoscopy of your esophagus and 
stomach, which showed some inflammation in your stomach known as 
gastritis. We went a sample of the polyp and the gastritis to 
the pathology department, and you will hear about those results 
in the next week or so. Depending on the results, you may need 
another colonoscopy in the next few weeks or months. For the 
gastritis, we started you on a new medication called 
Pantoprazole, which you should take until you see your primary 
care doctor.

Please be sure to follow up with your primary care physician at 
your scheduled appointment.

We wish you the best,
Your ___ team
 
Followup Instructions:
___